US04772620
2,2,2-Trifluoroethanol (3.6 g) was dissolved in toluene (20 ml), and sodium hydride (0.7 g) was added to prepare a sodium salt of 2,2,2-trifluoroethanol. Then, 3 g of 1-(2-bromo-5-pyridylmethyl)-2-(nitromethylene)imidazolidine (the known compound described in Japanese Patent Application No. 132,943/1984) was added, and the mixture was heated at 80° C. for 8 hours. Toluene was distilled off under reduced pressure, and the residue was poured into 20 ml of ice water and then neutralized. The aqueous solution was extracted with dichloromethane, and the extract was purified by silica gel column chromatography to give 1-[2-(2,2,2-trifluoroethoxy)-5-pyridylmethyl]-2-(nitromethylene)-imidazolidine. mp. 132°-135° C.

reactant | 2,2,2-Trifluoroethanol | 3.6 g | FC(CO)(F)F | C2H3F3O
reactant | sodium hydride | 0.7 g | [H-].[Na+]
reactant | sodium | [Na] | Na
reactant | 1-(2-bromo-5-pyridylmethyl)-2-(nitromethylene)imidazolidine | 3 g | BrC1=NC=C(C=C1)CN1C(NCC1)=C[N+](=O)[O-] | C10H11BrN4O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(2,2,2-trifluoroethoxy)-5-pyridylmethyl]-2-(nitromethylene)-imidazolidine | FC(COC1=NC=C(C=C1)CN1C(NCC1)=C[N+](=O)[O-])(F)F | C12H13F3N4O3
